US05519029
5-(p-toluenesulfonyloxy)-2-methylisoquino[8,7,6-cd]indazole-6(2H)-one
The 1:1 mixture of 9-fluoro-6-(p-toluenesulfonyloxy) benzo[g] isoquinoline-5,10-dione and 9-chloro-6-(p-toluenesulfonyloxy) benzo[g]isoquinoline-5,10-dione, of Preparative Example 10a, (0.041 g) is dissolved in dry pyridine (2 mL) and a freshly prepared 1M solution of N-methyhydrazine in pyridine (0.183 mL) is added. After stirring for three hours at room temperature the reaction mixture is concentrated to dryness and added with water (5 mL), with NaH2PO4 saturated solution (5 mL) and extracted several times with methylene chloride (50 mL). The combined organic solutions are dried ever anhydrous sodium sulfate and the solvent is removed at reduced pressure. The obtained residue is purified by silica-gel column chromatography (eluant: methylene chloride/ethyl acetate 90/10 v/v (50 mL), then 75/25 (50 mL), then 60/40 (50 mL) and finally 40/60 (50 mL) to give2-methyl-5-(p-toluenesulfonyloxy)isoquino[8,7,6-cd]indazole-6(2H)-one.

reactant | 9-fluoro-6-(p-toluenesulfonyloxy) benzo[g] isoquinoline-5,10-dione | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO5S
reactant | 9-chloro-6-(p-toluenesulfonyloxy) benzo[g]isoquinoline-5,10-dione | ClC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12ClNO5S
reactant | N-methyhydrazine | CNN | CH6N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.183 mL | N1=CC=CC=C1 | C5H5N
product | 5-(p-toluenesulfonyloxy)-2-methylisoquino[8,7,6-cd]indazole-6(2H)-one | C1(=CC=C(C=C1)S(=O)(=O)OC1=C2C=3C(=NN(C3C=C1)C)C=1C=NC=CC1C2=O)C | C21H15N3O4S
